US05262427
3-Chloro-2-formyl-8-methyl-8-azabicyclo[3.2.1]oct-2-ene oxalate
To a dimethylformamide (4.5 ml, 60 mmol) at 0° C. was added phosphorous oxychloride (3 ml, 30 mmol). Tropinone (2 g, 13 mmol) was added, and the reaction mixture heated to 70° C. for 1/2 h After cooling, crushed ice was added and then solid potassium carbonate until alkaline reaction. The water solution was extracted with ether (3×30 ml). The ether extracts were dried and evaporated. The crude compound was purified by column chromatography with acetone as eluent. The title compound was precipitated with a 1M oxalic acid acetone solution, filtered and dried. M.p. 136°-137° C. decomposes.

reactant | dimethylformamide | 60 mmol, 4.5 ml | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 30 mmol, 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Tropinone | 13 mmol, 2 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-Chloro-2-formyl-8-methyl-8-azabicyclo[3.2.1]oct-2-ene oxalate | C(C(=O)O)(=O)O.ClC1=C(C2CCC(C1)N2C)C=O | InChI=1S/C9H12ClNO.C2H2O4/c1-11-6-2-3-9(11)7(5-12)8(10)4-6;3-1(4)2(5)6/h5-6,9H,2-4H2,1H3;(H,3,4)(H,5,6)
